US06972288B1
4-[(3-Bromophenyl)amino]-6-({4-[(tert-butylcarbonyloxy)methoxy]-1,4-dioxo-2-buten-1-yl}amino) quinazoline
207 mg of potassium carbonate and 0.144 ml of chloromethyl pivalate are added to 200 mg of 4-[(3-bromophenyl)amino]-6{[(2-carboxy-vinyl)carbonyl]amino}-quinazoline in 2 ml of dimethylsulphoxide. Then a further 30 mg of sodium iodide are added and the reaction mixture is stirred for 48 hours at ambient temperature. For working up, the reaction mixture is diluted with 20 ml of water and extracted with ethyl acetate. The combined extracts are washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation. The crude product mixture is purified by chromatography on a silica gel column with methylene chloride/methanol (20:1). Yield: 10 mg (4% of theoryl), Rf value: 0.42 (silica gel, methylene chloride/methanol=9:1) Mass spectrum (EI): m/z=526 [M]*

reactant | potassium carbonate | 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl pivalate | 0.144 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | 4-[(3-bromophenyl)amino]-6{[(2-carboxy-vinyl)carbonyl]amino}-quinazoline | 200 mg | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(=O)C=CC(=O)O | C18H13BrN4O3
reactant | sodium iodide | 30 mg | [I-].[Na+]
solvent | dimethylsulphoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | 20 ml | O | H2O
product | 4-[(3-Bromophenyl)amino]-6-({4-[(tert-butylcarbonyloxy)methoxy]-1,4-dioxo-2-buten-1-yl}amino) quinazoline | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=CC(=O)OCOC(=O)C(C)(C)C)=O | C24H23BrN4O5
